US05756475
N,N'-bis{[N-(2,3,4,5-tetramethoxy-6-methylbenzyl)]-3-aminopropyl}piperazine
The title compound was prepared by a similar way as in Preparation Example 1, except that 1,4-bis(3-aminopropyl)piperazine was used instead of trans-1,2-cyclohexane diamine and 2,3,4,5-tetramethoxy-6-methylbenzaldehyde was used instead of veratraldehyde.

reactant | 1,4-bis(3-aminopropyl)piperazine | NCCCN1CCN(CC1)CCCN | C10H24N4
reactant | 2,3,4,5-tetramethoxy-6-methylbenzaldehyde | COC1=C(C=O)C(=C(C(=C1OC)OC)OC)C | C12H16O5
product | N,N'-bis{[N-(2,3,4,5-tetramethoxy-6-methylbenzyl)]-3-aminopropyl}piperazine | COC1=C(CNCCCN2CCN(CC2)CCCNCC2=C(C(=C(C(=C2C)OC)OC)OC)OC)C(=C(C(=C1OC)OC)OC)C | C34H56N4O8
